US07816369B2
A solution of 5-methylthio-2-nitroaniline (50 mg; 0.27 mmol) in acetic acid (2 ml) was heated to 85° C. Zinc powder (71 mg; 1.09 mmol) was then added portionwise over 15 minutes and the resulting solution was maintained at 85° C. for 2 hours. The hot reaction mixture was then filtered through celite and the filter cake washed with hot acetic acid (10 ml). The filtrate was evaporated to dryness to give crude 4-methylthio-1,2-phenylenediamine (42 mg, 100%). This was used directly in the next step without purification.

reactant | 5-methylthio-2-nitroaniline | 0.27 mmol, 50 mg | CSC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O2S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 1.09 mmol, 71 mg | [Zn] | Zn
product | 4-methylthio-1,2-phenylenediamine | 42 mg, 100% | CSC1=CC(=C(C=C1)N)N | C7H10N2S
